US05177216
To solution of 12.0 g of sodium hydroxide in 150 ml of water was added 15.0 g of L-proline and dissolved under water-cooling at 15° C. The solution was stirred under water-cooling at 15° C. and to the reaction mixture was added 30.0 g of 3-nitrobenzenesulfonyl chloride and 15 ml of diethyl ether under stirring for 15 minutes. After stirring at room temperature for 80 minutes, the reaction mixture was acidified at pH2 with concentrated hydrochloric acid and the separated oily substance was extracted with ethyl acetate. After the organic layer was washed with aqueous sodium chloride, the solution was filtered and the filtrate was concentrated under reduced pressure. The crystallized residue was boiled with 300 ml of hexane-ethyl acetate (1:1) and was cooled. The obtained crystals were collected by filtration to give 31.7 g of N-3-nitrobenzenesulfonyl-L-proline, melting at 155°-157° C., [α]23D =-71.3° (c=1, CHCl3)

reactant | sodium hydroxide | 12.0 g | [OH-].[Na+]
reactant | L-proline | 15.0 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 3-nitrobenzenesulfonyl chloride | 30.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | N-3-nitrobenzenesulfonyl-L-proline | 31.7 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H12N2O6S
